US05254563
a) 4-(2-Chlorophenoxy)-methylindole
A solution of 4-hydroxymethylindole (1.0 g) in tetrahydrofuran (10 ml) is instilled in a solution of triphenylphosphine (2.92 g), 2-chlorophenol (1.43 g) and azodicarboxylic acid diethyl ester (1.49 g) in tetrahydrofuran (50 ml). After a three-hour stirring of the reaction mixture, it is worked up in the usual way and the crude product is chromatographed, melting point 138°-140° C. (cyclohexane).

reactant | 4-hydroxymethylindole | 1.0 g | OCC1=C2C=CNC2=CC=C1 | C9H9NO
reactant | triphenylphosphine | 2.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-chlorophenol | 1.43 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | azodicarboxylic acid diethyl ester | 1.49 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(2-Chlorophenoxy)-methylindole | ClC1=C(OC2=C3C=C(NC3=CC=C2)C)C=CC=C1 | C15H12ClNO
